US07700595B2
To a cooled (0° C.) solution of 2-fluoro-N-methoxy-N-methyl-3-trifluoromethyl-benzamide (5.0 g, 20 mmol) in THF (50 ml) was added phenethyl magnesium chloride (50 ml of 1.0M in THF) and the reaction was warmed to r.t. After 2 hr, the reaction was poured into 2N HCl and extracted with ether. The organic layer was dried (MgSO4), and concentrated and the product was purified by column chromatography (eluent 5% EtOAc/Hexane) to give 1-(2-fluoro-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one as a clear oil (4.8 g). MS (ES) m/z 297.0.

reactant | 2-fluoro-N-methoxy-N-methyl-3-trifluoromethyl-benzamide | 20 mmol, 5.0 g | FC1=C(C(=O)N(C)OC)C=CC=C1C(F)(F)F | C10H9F4NO2
reactant | phenethyl magnesium chloride | 1.0M, 50 ml | C(CC1=CC=CC=C1)[Mg]Cl
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(2-fluoro-3-trifluoromethyl-phenyl)-3-phenyl-propan-1-one | 4.8 g | FC1=C(C=CC=C1C(F)(F)F)C(CCC1=CC=CC=C1)=O | C16H12F4O
